US07091214B2
A solution of tert-butyl 4-[2-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-4-oxidopiperazine-1-carboxylate (8.84 g, 16.1 mmol) in chloroform (400 mL) was cooled to 4° C. Phosphorous trichloride (9.82 mL, 113 mmol) was added dropwise, and the reaction was stirred for 45 minutes at 4° C. Water (one drop) was added to the reaction, which was allowed to warm to ambient temperature. The chloroform was removed under reduced pressure, and the residue was dissolved in ethanol (150 mL). Hydrogen chloride (21.5 mL of a 3 M solution in ethanol) was added, and the reaction was heated at reflux for 25 minutes. The reaction was allowed to cool to room temperature; a precipitate formed and was isolated by filtration to provide 6.86 g of 7-bromo-2-ethoxymethyl-1-(2-piperazin-1-ylethyl)-1H-imidazo[4,5-c]quinolin-4-amine dihydrochloride as a light yellow solid.

reactant | tert-butyl 4-[2-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-4-oxidopiperazine-1-carboxylate | 16.1 mmol, 8.84 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC[N+]2(CCN(CC2)C(=O)OC(C)(C)C)[O-])COCC)Br | C24H33BrN6O4
reactant | Phosphorous trichloride | 113 mmol, 9.82 mL | P(Cl)(Cl)Cl | Cl3P
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Water | one drop | O | H2O
product | 7-bromo-2-ethoxymethyl-1-(2-piperazin-1-ylethyl)-1H-imidazo[4,5-c]quinolin-4-amine dihydrochloride | 6.86 g | Cl.Cl.BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCN3CCNCC3)COCC | InChI=1S/C19H25BrN6O.2ClH/c1-2-27-12-16-24-17-18(26(16)10-9-25-7-5-22-6-8-25)14-4-3-13(20)11-15(14)23-19(17)21;;/h3-4,11,22H,2,5-10,12H2,1H3,(H2,21,23);2*1H
